US08105747B2
24.9 g of trimethyl(trifluoromethyl)silane, 16.0 g of 2-heptanone, 38 g of tetrahydrofuran and 350 mg of tetrabutylammonium fluoride trihydrate were charged into a four-necked flask equipped with a nitrogen feeding tube, a reflux condenser, a dropping funnel and a thermometer, and a reaction was effected by a conventional method. Then, 17.5 g of hydrochloric acid was dropwise added to the reaction mixture at a temperature of 25 to 48° C. over 30 minutes, followed by stirring at about 48° C. for 2 hours. The reaction mixture was treated by a conventional method, and the resulting organic phase was washed with a saline solution, followed by drying with anhydrous magnesium sulfate. Thereafter, the resultant was concentrated under reduced pressure, thereby obtaining 26.4 g of 1,1,1-trifluoro-2-methyl-2-heptanol in the form of a pale brown oily matter.

reactant | trimethyl(trifluoromethyl)silane | 24.9 g | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | 2-heptanone | 16.0 g | CC(CCCCC)=O | C7H14O
reactant | hydrochloric acid | 17.5 g | Cl | ClH
catalyst | tetrabutylammonium fluoride trihydrate | 350 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 38 g | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-2-methyl-2-heptanol | 26.4 g | FC(C(CCCCC)(O)C)(F)F | C8H15F3O
